US08709747B2
Air was removed from a solution of 2,7-diethynyl-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene (0.120 g, 0.237 mmol) in 8.2 mL of toluene and 1.8 mL of Et3N by blowing argon for 20 min. Then Pd(PPh3)2Cl2 (10 mg, 6 mol %) and CuI (2.7 mg, 6 mol %), and 5-iodothiophene-2-carboxaldehyde (0.135 g, 0.568 mmol) were added, and deaeration was continued for 15 min. Thereafter the mixture was stirred at 40° C. for 17 h. After completion of the reaction, reaction mixture was filtered and evaporated to dryness. The crude product was purified by column chromatography on silica gel (CH2Cl2/AcOEt 60:40 then AcOEt) to yield 0.140 g (81%) of 5,5′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyldi-2,1-ethynediyl]bis-2-thiophenecarboxaldehyde, mp 84° C.; 1H NMR (CDCl3) δ 2.43 (t, 4H, J=7.5 Hz), 2.79 (t, 4H, J=7.2 Hz), 3.21 (m, 4H), 3.33 (s, 6H), 3.39 (m, 4H), 3.54-3.46 (m, 8H), 7.37 (d, 2H, J=3.9 Hz), 7.57 (dd, 2H, J=1.5 Hz, J=7.1 Hz), 7.62 (d, 2H, J=1.2 Hz), 7.71 (d, 2H, J=7.1 Hz), 7.72 (d, 2H, J=3.9 Hz), 9.90 (s, 2H); 13C NMR (CDCl3) δ 39.6, 51.6, 59.0, 66.8, 70.1, 70.4, 70.5, 71.8, 83.0, 98.5, 120.5, 121.2, 126.6, 131.3, 132.6, 132.8, 136.2, 140.7, 143.9, 149.7, 182.5. HRMS (ESI) calcd for C41H42O8NaS2 [(M+Na)+] m/z 749.2219. found 749.2226. Anal. Calcd for C41H42O8S2 (726.90): C, 67.75; H, 5.82; S, 8.82. Found: C, 67.86; H, 5.82; S, 8.63.

reactant | 2,7-diethynyl-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene | 0.237 mmol, 0.120 g | C(#C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C)(CCOCCOCCOC)CCOCCOCCOC | C31H38O6
reactant | 5-iodothiophene-2-carboxaldehyde | 0.568 mmol, 0.135 g | IC1=CC=C(S1)C=O | C5H3IOS
solvent | toluene | 8.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et3N | 1.8 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 2.7 mg | [Cu]I
product | 5,5′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyldi-2,1-ethynediyl]bis-2-thiophenecarboxaldehyde | 0.140 g, 81% | COCCOCCOCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC1=CC=C(S1)C=O)C#CC1=CC=C(S1)C=O)CCOCCOCCOC | C41H42O8S2
